* C:\Users\Caliphax\Documents\ltspice\2n3904 amp.asc
V1 N005 0 SINE(0 .028 14000000) Rser=0
R1 N002 N007 4.7k
R2 N007 0 1k
R3 N008 0 47
C2 N009 N008 100nF
R4 N009 0 47
Q1 N004 N007 N008 0 2N3904
C3 N007 N005 100nF
L1 N004 N002 201µH
L2 0 N003 17.5µH
C4 N002 0 .1µF
R5 N003 0 43
V2 N002 0 12 Rser=0
V3 N001 0 SINE(0 1 14000000) Rser=50
R6 0 N001 50
.model NPN NPN
.model PNP PNP
.lib C:\Users\Caliphax\Documents\LTspiceXVII\lib\cmp\standard.bjt
K3 L1 L2 1
.tran .000001
.backanno
.end
