* Z:\home\xenir\ltspice\Tayloe Switch.asc
L10 0 N004 20µH
L11 0 N007 10µH
L12 N003 0 10µH
V4 N001 0 AC 1 Rser=.1
C4 N002 N001 100n
R9 N004 0 50
V5 N005 0 AC 1 180 Rser=.1
C5 N006 N005 100n
R10 N003 N002 50
R21 N007 N006 50
.ac dec 400 1Meg 30Meg
K22 L10 L11 L12 1
.backanno
.end
