* Z:\home\xenir\ltspice\Tayloe-mix-amp.asc
L1 N014 N004 50µH
L2 0 N003 8.75µH
R1 N003 0 50
V1 N005 0 SINE(0 .05 10Meg) AC 1 Rser=.1
C1 N006 N005 100n
Q1 N004 N006 N013 0 2N2222
V2 N014 0 12
R3 N013 0 56
C2 N013 0 1nF
R5 N006 0 475
R6 N001 N006 2.21k
V3 N001 0 12
L4 N028 N023 52µH
L5 0 N024 13µH
R7 N024 0 50
V4 N025 0 SINE(0 .01 14Meg) AC 1 Rser=.1
C3 N026 N025 100n
Q2 N023 N026 N027 0 2N2222
V5 N028 0 12
R9 N027 0 56
C4 N027 0 2.2nF
R11 N026 0 475
R12 N023 N026 2.21k
V6 N022 0 12
L3 N020 N007 9µH
V7 N011 0 SINE(0 .1 14Meg) Rser=.1
C5 N012 N011 100n
Q3 N007 N012 N016 0 2N2222
R14 N018 0 100
R15 N021 0 200
C6 N018 N021 1nF
R16 N012 0 475
R17 N002 N012 2.21k
V9 N002 0 12
V8 N020 0 12
R13 N016 N018 .1
L8 0 N009 9µH
L9 N015 N010 2.25µH
L10 N019 N015 2.25µH
R18 N010 N015 220
R19 N015 N019 220
V11 N015 0 2.7
L6 0 N008 9µH
C7 N009 N008 100nF
.model NPN NPN
.model PNP PNP
.lib C:\users\xenir\My Documents\LTspiceXVII\lib\cmp\standard.bjt
K1 L1 L2 1
; .ac oct 401 3Meg 30Meg
.tran .000001
K2 L4 L5 1
K101 L6 L3 1
K102 L8 L9 L10 1
.backanno
.end
