* Z:\home\xenir\ltspice\pi-attenuator.asc
R1 N001 0 300
R2 N002 0 300
R3 N002 N001 20
V1 N001 0 10 AC 2 Rser=50
R4 N002 0 50
.ac oct 500 1Meg 30Meg
;tran 1
.backanno
.end
